US04199518
One modification of this procedure consists of reducing 1α,2α-epoxycholesta-4,6-dien-3--one in lithium/ammonia prior to protonation of the reaction intermediate enolate with externally added solid ammonium chloride. Our determination that this externally supplied proton source must be added as rapidly as possible led to the present invention. More exactly, when the solid ammonium chloride was added slowly (40-150 minutes) to the reduction reaction mixture, very little of the desired 1α,3β-dihydroxycholest-5-ene could be isolated. When the proton source was added rapidly (less than one minute), the desired product was isolated in high yield. This procedure proved successful for small-scale reactions (5 g or less), but failed completely when attempted on a scaled-up batch (15 g). It was further determined that the addition of the solid ammonium chloride to the larger-scale reaction resulted in uncontrollable foaming, presumably due to heat generation within the reaction flask. As a result, it was necessary to add the solid ammonium chloride to the reduction mixture was slowly (40 to 55 minutes) than had been determined conducive to the production of high yields of the desired reduction product, 1α ,3β-dihydroxycholest-5-ene.

reactant | 1α,2α-epoxycholesta-4,6-dien-3--one | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H40O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | lithium ammonia | [Li].N
product | 1α,3β-dihydroxycholest-5-ene | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H46O2
